US07560558B2
Compound 132: (2-{[7-(3-Chloropropoxy)-6-methoxy-4-quinolyl]oxy}-5-methylphenyl)(phenyl)methanone
{2-[(7-Hydroxy-6-methoxy-4-quinolyl)oxy]-5-methylphenyl}-(phenyl)methanone (200 mg), 1-bromo-3-chloropropane (245 mg), and potassium carbonate (358 mg) were suspended in N,N-dimethylformamide (5 ml), and the suspension was stirred at room temperature overnight. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using acetone-hexane to give the title compound (210 mg, yield 87%).

reactant | {2-[(7-Hydroxy-6-methoxy-4-quinolyl)oxy]-5-methylphenyl}-(phenyl)methanone | 200 mg | OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)C)C(=O)C1=CC=CC=C1)OC | C24H19NO4
reactant | 1-bromo-3-chloropropane | 245 mg | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 358 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (2-{[7-(3-Chloropropoxy)-6-methoxy-4-quinolyl]oxy}-5-methylphenyl)(phenyl)methanone | 210 mg, yield 87% | ClCCCOC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)C)C(=O)C1=CC=CC=C1)OC | C27H24ClNO4
